US07829584B2
C-(2-[1,2,4]triazol-1-yl-pyridin-3-yl)-methylamine
A catalytic amount of Raney 2800 nickel in water (Aldrich; withdrawn as a wet slurry with the tip of a spatula) was added under air to a translucent slurry of 2-[1,2,4]triazol-1-yl-nicotinonitrile (1.053 g, 6.16 mmol), as prepared in the previous step, in 2 M NH3/MeOH (50 mL). The flask was then sealed with a septum, the air was removed from the system, and the flask was flushed with H2 gas under balloon pressure. The reaction was stirred at rt under H2 for 11 h (TLC showed no starting material remained), and the bulk of the Raney nickel was then removed with a magnet. The translucent white reaction mixture was then diluted with DCM (50 mL), filtered, and the translucent filtrate was concentrated under vacuum to provide the title compound as a beige crystalline solid (988 mg, 92%).

reactant | 2-[1,2,4]triazol-1-yl-nicotinonitrile | 6.16 mmol, 1.053 g | N1(N=CN=C1)C1=C(C#N)C=CC=N1 | C8H5N5
solvent | water | O | H2O
solvent | NH3 MeOH | 2 M, 50 mL | N.CO
catalyst | nickel | [Ni] | Ni
product | C-(2-[1,2,4]triazol-1-yl-pyridin-3-yl)-methylamine | 988 mg, 92% | N1(N=CN=C1)C1=NC=CC=C1CN | C8H9N5
